US05137909
To a solution of 7-hydroxy-2-methyl-2-phenylthiazolo[3,2-a]indol-3(2H)-one (2.86 g), n-hexyl bromide (1.76 g) and a small amount of potassium iodide, and the mixture was heated and refluxed for 33 hours. The reaction mixture was allowed to cool. Then insoluble matter was filtered. The solvent was evaporated off under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (diluting solvent: n-hexane/ethyl acetate=9:1) to give 3.4 g (yield: 93%) of 7-hexyloxy-2-methyl-2-phenylthiazolo[3,2-a]indol-3-(2H)-one.

reactant | 7-hydroxy-2-methyl-2-phenylthiazolo[3,2-a]indol-3(2H)-one | 2.86 g | OC1=CC=2C=C3N(C2C=C1)C(C(S3)(C3=CC=CC=C3)C)=O | C17H13NO2S
reactant | n-hexyl bromide | 1.76 g | C(CCCCC)Br | C6H13Br
reactant | potassium iodide | [I-].[K+]
product | 7-hexyloxy-2-methyl-2-phenylthiazolo[3,2-a]indol-3-(2H)-one | 3.4 g, yield: 93% | C(CCCCC)OC1=CC=2C=C3N(C2C=C1)C(C(S3)(C3=CC=CC=C3)C)=O | C23H25NO2S
